US07390923B2
3-(3-Fluoro-4-nitrophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 1 starting from 3-fluoro-4-nitrophenol and 2-methyl-oxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide. 1H NMR (DMSO-d6): 1.46 (3H, s), 2.53 (3H, s), 4.16 (1H, d, J=10.1 Hz), 4.41 (1H, d, J=10.1 Hz), 6.36 (1H, bs), 6.96 (1H, m), 7.22 (1H, m), 7.88 (1H, dd, J=9.0 Hz and 2.1 Hz), 7.90 (1H, d, J=2.1 Hz), 8.04 (1H, d, J=9.0 Hz), 8.24 (1H, m), 10.19 (1H, s).

reactant | 3-fluoro-4-nitrophenol | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 2-methyl-oxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(3-Fluoro-4-nitrophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | FC=1C=C(OCC(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=CC1[N+](=O)[O-] | C17H16FN3O7
